US06177419B1
6-(2-Hydroxy-3-methoxyphenyl)-6′-(2-hydroxy-3-methylphenyl)-2,2′-bipyridine was prepared from 6-bromo-6′-(2-hydroxy-3-methoxyphenyl)-2,2′-bipyridine and 2-hydroxy-3-methylphenylboronic acid in 59% yield using method F; δH [2H6]-DMSO 13.28,(1H, s), 8.37,(1H, d), 8.35,(1H, d), 8.29,(2H, t), 8.18,(1H, d), 8.10,(1H, d), 7.97,(1H, d), 7.71,(1H, d), 7.29,(1H, d), 7.10,(1H, d), 6.97-6.87,(2H, m), 3.84,(3H, s), 2.29,(3H, s); MS 385 (MH)+; HPLC retention time (system 1) 4.27 minutes.

reactant | 6-bromo-6′-(2-hydroxy-3-methoxyphenyl)-2,2′-bipyridine | BrC1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C(=CC=C1)OC)O | C17H13BrN2O2
reactant | 2-hydroxy-3-methylphenylboronic acid | OC1=C(C=CC=C1C)B(O)O | C7H9BO3
product | 6-(2-Hydroxy-3-methoxyphenyl)-6′-(2-hydroxy-3-methylphenyl)-2,2′-bipyridine | 59% yield | OC1=C(C=CC=C1OC)C1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C(=CC=C1)C)O | C24H20N2O3
